US07553837B2
Production of 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-carboxylic acid
2.39 g of 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-aldehyde and 31 g of 2-methyl-2-butene were dissolved in 190 ml of t-butanol and a solution prepared by dissolving 7.77 g of sodium chlorite and 10.1 g of sodium dihydrogen phospahte dehydrate in 78 ml of water was added dropwise under ice cooling, followed by stirring at room temperature for 2 hours. After 2-methyl-2-butene and t-butanol were distilled off under reduced pressure, water was added and the reaction solution was extracted with ether. The solution was washed with saturated saline and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure and the residue was crystallized from ether-hexane to obtain 1.20 g of the objective product.

reactant | 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-aldehyde | 2.39 g | CC1(OC=2C(C1)C(C(=C(C2C)C)[N+](=O)[O-])C)C=O | C13H17NO4
reactant | 2-methyl-2-butene | 31 g | CC(C)=CC | C5H10
reactant | sodium chlorite | 7.77 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen | 10.1 g | [Na].[H][H]
solvent | t-butanol | 190 ml | C(C)(C)(C)O | C4H10O
solvent | water | 78 ml | O | H2O
product | 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-carboxylic acid | 1.20 g | CC1(OC=2C(C1)C(C(=C(C2C)C)[N+](=O)[O-])C)C(=O)O | C13H17NO5
